US07759389B2
To a solution of 7-(3-fluoro-benzenesulfonyl)-4-isocyanatomethyl-chroman (0.12 g, 0.35 mmol) in THF (15 ml) at 0° C. was added LiAlH4 (0.52 ml, 1.0 M in THF, 0.525 mmol). The mixture was stirred at 0° C. for 2 hours, then was quenched with one drop of H2O, 3 drops of 2N NaOH, and 3 drops of H2O again. The precipitate was filtered off. The solution was diluted with EtOAc, washed with water, dried with MgSO4, filtered and concentrated. The residue was purified with preparative TLC to give [7-(3-Fluoro-benzenesulfonyl)-chroman-4-ylmethyl]-methyl-amine free base, which was further treated with a few drops of 2N HCl in EtOH and dried under vacuum to give the corresponding HCl salt: 33.5 mg. MS: 336.2 (M+H)+, 377.2 (M+CH3CN+H)+, 671.3 (2M+H)+.

reactant | 7-(3-fluoro-benzenesulfonyl)-4-isocyanatomethyl-chroman | 0.35 mmol, 0.12 g | FC=1C=C(C=CC1)S(=O)(=O)C1=CC=C2C(CCOC2=C1)CN=C=O | C17H14FNO4S
reactant | LiAlH4 | 0.525 mmol, 1.0 M, 0.52 ml | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | [7-(3-Fluoro-benzenesulfonyl)-chroman-4-ylmethyl]-methyl-amine | FC=1C=C(C=CC1)S(=O)(=O)C1=CC=C2C(CCOC2=C1)CNC | C17H18FNO3S
